US07056916B2
(e) 6-hydroxy-8-{1-hydroxy-2-[2-(4-isopropylphenyl)-1,1 dimethylethylamino]-ethyl}-4H-benzo[1,4]oxazin-3-one
1.6 g (3.0 mmol) of 6-benzyloxy-8-{1-hydroxy-2-[2-(4-isopropylphenyl)-1,1-dimethylethylamino]ethyl}-4H-benzo[1,4]oxazin-3-one is dissolved in methanol and hydrogenated with palladium on charcoal as catalyst at normal pressure and ambient temperature. The catalyst is suction filtered, the solvent distilled off, and the residue recrystallized from isopropanol. White solid. Yield: 1.1 g (85%, hydrochloride); melting point 248° C.–250° C.; mass spectrometry: [M+H]+=399.

reactant | 6-benzyloxy-8-{1-hydroxy-2-[2-(4-isopropylphenyl)-1,1-dimethylethylamino]ethyl}-4H-benzo[1,4]oxazin-3-one | 3.0 mmol, 1.6 g | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC=C(C=C1)C(C)C)(C)C)O | C30H36N2O4
solvent | methanol | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 6-hydroxy-8-{1-hydroxy-2-[2-(4-isopropylphenyl)-1,1 dimethylethylamino]-ethyl}-4H-benzo[1,4]oxazin-3-one | OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC=C(C=C1)C(C)C)(C)C)O | C23H30N2O4
